US07727988B2
3-Benzoyl-5-iodo-1H-pyrimidine-2,4-dione (Prep36)
A solution of 5-iodouracil (commercially available from Aldrich, 2 g, 8.4 mmol) in dry pyridine (20 mL) was added dropwise to a solution of benzoyl chloride (3.5 g, 25.3 mmol) in pyridine (10 mL). The mixture was stirred at room temperature for 3 hours. Water (70 mL) was added and the product extracted with ethyl acetate. The organic phase was washed with a saturated solution of NH4Cl and then with 2% HClaq (40 mL×4 times) The solvent was removed under vacuum and the residue was triturated with i-Pr2O to give the title compound as white solid (2.6 g, 90% yield).

reactant | 5-iodouracil | IC=1C(NC(NC1)=O)=O | C4H3IN2O2
reactant | benzoyl chloride | 25.3 mmol, 3.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Water | 70 mL | O | H2O
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 3-Benzoyl-5-iodo-1H-pyrimidine-2,4-dione | 2.6 g, 90% yield | C(C1=CC=CC=C1)(=O)N1C(NC=C(C1=O)I)=O | C11H7IN2O3
